US07915261B2
Methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate (228 mg) was added to an acetonitrile (5 ml) solution of 1-{3-[2-(4-piperidinyl)ethyl]phenyl}urea hydrochloride (185 mg) and TEA (0.2 ml), followed by stirring overnight at room temperature. The reaction liquid was diluted with EtOAc, washed with aqueous saturated sodium hydrogencarbonate solution and saturated brine in that order, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (eluent: chloroform:methanol=10:1 (v/v)) to obtain methyl 5-({[4-(2-{3-[(aminocarbonyl)amino]phenyl}ethyl)-1-piperidyl]carbonyl}oxy)nicotinate (183 mg).

reactant | Methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate | 228 mg | [N+](=O)([O-])C1=CC=C(OC(=O)OC=2C=NC=C(C(=O)OC)C2)C=C1 | C14H10N2O7
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | 1-{3-[2-(4-piperidinyl)ethyl]phenyl}urea hydrochloride | 185 mg | Cl.N1CCC(CC1)CCC=1C=C(C=CC1)NC(=O)N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-({[4-(2-{3-[(aminocarbonyl)amino]phenyl}ethyl)-1-piperidyl]carbonyl}oxy)nicotinate | 183 mg | NC(=O)NC=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C22H26N4O5
